US09328067B2
3-Bromo-N,N-diethylpropanamide
A mixture of 3-bromopropanoyl chloride (1.0 g, 5.8 mmol) and diethylamine (1.9 g, 26 mmol) in THF (20 ml) was stirred at 0° C. for 30 min, the resulting white solid was filtered and the filtrate was concentrated to give a crude oil which was used in the next reaction without further purification.

reactant | 3-bromopropanoyl chloride | 5.8 mmol, 1.0 g | BrCCC(=O)Cl | C3H4BrClO
reactant | diethylamine | 26 mmol, 1.9 g | C(C)NCC | C4H11N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Bromo-N,N-diethylpropanamide | BrCCC(=O)N(CC)CC | C7H14BrNO
